* Z:\mnt\design.r\spice\examples\3407A.asc
V1 IN 0 5
C1 OUT1 0 10µ
L1 N002 OUT1 2.2µ
C2 IN 0 22µ
R1 N004 0 443.5K
R2 OUT1 N004 887K
C3 OUT2 0 10µ
L2 N001 OUT2 2.2µ
R3 N003 0 280K
R4 OUT2 N003 887K
C4 OUT2 N003 22p
C5 OUT1 N004 22p
Rload1 OUT1 0 100
Rload2 OUT2 0 100
XU1 N004 IN IN N002 0 IN N001 MP_01 IN N003 LTC3407A
.tran 250u startup
.lib LTC3407A.sub
.backanno
.end
